US05939437
e. 2-(1-adamantylmethylaminocarbonyl)benzoic acid
Phthalic anhydride (2.65 g, 17.9 mmol) was dissolved in dry THF (50 ml) and a solution of 1-adamantanemethylamine (2.96 g, 17.9 mmol) in THF (50 ml) was added. The mixture was stirred at room temperature for 16 h and the solution evaporated to dryness. The residue was triturated with hexane and the precipitate formed was filtered, washed with hexane and dried to leave the title compound (5.42 g, 97%), 1H NMR (d6 -DMSO) δ 12.9 (1H, s), 8.2 (1H, t), 7.8-7.4 (4H, m), 2.9 (2H, d), 1.9 (3H, s), 1.6 (6H, q), 1.5 (6H, s).

reactant | Phthalic anhydride | 17.9 mmol, 2.65 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 1-adamantanemethylamine | 17.9 mmol, 2.96 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(1-adamantylmethylaminocarbonyl)benzoic acid | 5.42 g, 97% | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=C(C(=O)O)C=CC=C2 | C19H23NO3
